US04681893
A solution of 171 mmol of dicyclohexylcarbodiimide in 250 ml of dichloromethane was added dropwise over a two hour period at 0° C. to a suspension of 171 mmol of propiolic acid, 179.6 mmol of aniline, and 5 mmol of 4-dimethylaminopyridine in 400 ml of dichloromethane. After addition was complete, the mixture was stirred for an additional 30 minutes and then diluted with diethyl ether. The resulting mixture was filtered through silica gel, concentrated, and the residue recrystallized to provide 30.5 g of N,3-diphenyl-2-propynamide, mp 122°-123° C.

reactant | dicyclohexylcarbodiimide | 171 mmol | C1(CCCCC1)N=C=NC1CCCCC1 | C13H22N2
reactant | propiolic acid | 171 mmol | C(C#C)(=O)O | C3H2O2
reactant | aniline | 179.6 mmol | NC1=CC=CC=C1 | C6H7N
solvent | dichloromethane | 250 ml | ClCCl | CH2Cl2
catalyst | 4-dimethylaminopyridine | 5 mmol | CN(C1=CC=NC=C1)C | C7H10N2
solvent | dichloromethane | 400 ml | ClCCl | CH2Cl2
solvent | diethyl ether | C(C)OCC | C4H10O
product | N,3-diphenyl-2-propynamide | 30.5 g | C1(=CC=CC=C1)NC(C#CC1=CC=CC=C1)=O | C15H11NO
